US06346527B1
To a mixture of methyl 2,3-dihydro-9-iodo-1-benzoxepin-4-carboxylate (15 g) and [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (1.9 g) in N,N-dimethylformamide (225 ml) was introduced carbon monoxide for 15 minutes. To the mixture was added the triethylamine (15.8 ml) and triethylsilane (14.5 ml) and to the mixture was introduced carbon monoxide for 1hour. Additionally, the reaction mixture was stirred for 3 days at ambient temperature under carbon monoxide atmosphere. To the reaction mixture was added a mixture of ethyl acetate and water, and catalyst ws filtered off. The separated organic layer was washed with a water, dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with a mixture of diisopropyl ether and hexane (1:1) to give methyl 2,3-dihydro-9-formyl-1-benzoxepin-4-carboxylate (7.7 g).

reactant | methyl 2,3-dihydro-9-iodo-1-benzoxepin-4-carboxylate | 15 g | IC1=CC=CC=2C=C(CCOC21)C(=O)OC | C12H11IO3
reactant | dichloromethane | 1.9 g | ClCCl | CH2Cl2
reactant | carbon monoxide | [C]=O | CO
reactant | triethylsilane | 14.5 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | N,N-dimethylformamide | 225 ml | CN(C=O)C | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 15.8 ml | C(C)N(CC)CC | C6H15N
product | methyl 2,3-dihydro-9-formyl-1-benzoxepin-4-carboxylate | 7.7 g | C(=O)C1=CC=CC=2C=C(CCOC21)C(=O)OC | C13H12O4
